US09303023B2
To a solution of 1-(2,2-dimethoxyethyl)-4-nitro-1H-pyrazole (2.65 g, 13.2 mmol) in THF (34 mL), a 2N aq. HCl-solution (60 mL, 120 mmol) was added dropwise. After stirring at 80° C. for 2 h, the reaction mixture was allowed to reach rt and freeze-dried overnight to yield 2-(4-nitro-1H-pyrazol-1-yl)acetaldehyde which was used as an yellow oil in the next step without further purification. LC-MS conditions B: tR=0.24 min, [M+H]+=no ionization.

reactant | 1-(2,2-dimethoxyethyl)-4-nitro-1H-pyrazole | 13.2 mmol, 2.65 g | COC(CN1N=CC(=C1)[N+](=O)[O-])OC | C7H11N3O4
reactant | HCl | 120 mmol, 2N, 60 mL | Cl | ClH
solvent | THF | 34 mL | C1CCOC1 | C4H8O
product | 2-(4-nitro-1H-pyrazol-1-yl)acetaldehyde | [N+](=O)([O-])C=1C=NN(C1)CC=O | C5H5N3O3
